US07179823B1
Methanesulfonyl chloride was added dropwise to a mixture of [3-isopropyl-1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-1H-pyrazol-4-yl]methanol (2.02 g), triethylamine (0.8 ml) and ethyl acetate (30 ml) at 0° C., which was stirred at room temperature for 3 hours. The reaction mixture was poured into water, which was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), then concentrated. The residue was dissolved in tetrahydrofuran (20 ml). This solution was added dropwise at 0° C. to separately-prepared tetrahydrofuran solution (30 ml) of sodium diethyl malonate using diethyl malonate (2.35 g) and sodium hydride (60%, oily, 0.55 g). The reaction mixture was poured into dilute hydrochloric acid, which was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), then concentrated. The residue was dissolved in ethanol (50 ml), then 1N aqueous sodium hydroxide solution (15 ml) was added to the solution, which was stirred at 60° C. for 2 hours. After the reaction solvent was removed under reduced pressure, water was added to the mixture, which was acidified with dilute hydrochloric acid. After the crystals obtained were filtered and washed with water, the crystals were dissolved in pyridine (50 ml), which was stirred at 120° C. for 2 hours. After pyridine was removed under reduced pressure, the residue was dissolved in ethyl acetate, which was washed with dilute hydrochloric acid, then with saturated aqueous sodium chloride solution, and dried (MgSO4), then concentrated. The crystals obtained were collected by filtration to yield 3-[3-isopropyl-1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy) benzyl]-1H-pyrazol-4-yl]propionic acid (1.23 g, yield: 55%). This was recrystallized from ethyl acetate-hexane. Melting point: 97–98° C.

reactant | Methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
reactant | [3-isopropyl-1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyl]-1H-pyrazol-4-yl]methanol | 2.02 g | C(C)(C)C1=NN(C=C1CO)CC1=CC=C(C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C25H27N3O3
reactant | diethyl malonate | 2.35 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | sodium hydride | 0.55 g | [H-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | O | H2O
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
solvent | triethylamine | 0.8 ml | C(C)N(CC)CC | C6H15N
product | 3-[3-isopropyl-1-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy) benzyl]-1H-pyrazol-4-yl]propionic acid | 1.23 g, yield: 55% | C(C)(C)C1=NN(C=C1CCC(=O)O)CC1=CC=C(C=C1)OCC=1N=C(OC1C)C1=CC=CC=C1 | C27H29N3O4
